.SubCkt GA255DR7E2104MW01 [_net1] [_net2]
.param K01=9.7928e-08
.param M01=2.0000e+09
.param L02=4.5039e-12
.param M03=1.2487e-02
.param K04=7.3547e-06
.param M04=2.1640e-01
.param K05=8.0158e-06
.param M05=1.4474e-02
.param K06=2.6934e-05
.param M06=1.0422e-02
.param K07=5.2210e-06
.param M07=3.9892e-03
.param L08=1.3161e-10
.param M08=1.2299e-01
.param K09=1.8593e-07
.param L09=7.5890e-11
.param M09=7.8747e-02
.param K10=5.6490e-08
.param L10=7.8349e-11
.param M10=7.5432e-02
.param K11=1.1294e-11
.param L11=2.6339e-10
.param M11=2.2106e+01
.param K12=6.4482e-12
.param L12=2.4662e-10
.param M12=3.8443e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
C09 _net0809 _net0910 {K09}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
C10 _net0910 _net1011 {K10}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net2 {K12}
L12 _net1112 _net2 {L12}
R12 _net1112 _net2 {M12}
.ends GA255DR7E2104MW01
