.SubCkt GA242QR7E2471MW01 _net1 _net2
.param K01=4.8176e-10
.param M01=2.0000e+09
.param L02=6.3966e-11
.param M03=3.7617e-01
.param K04=1.3016e-08
.param M04=2.7412e+01
.param K05=2.2387e-08
.param M05=1.0610e+00
.param K06=4.6326e-09
.param M06=5.4298e-01
.param K07=2.4922e-09
.param L07=4.1662e-11
.param M07=4.9326e-01
.param K08=4.0308e-10
.param L08=4.7155e-11
.param M08=6.2622e-01
.param K09=7.0348e-12
.param L09=2.5283e-10
.param M09=2.1813e+01
.param K10=1.7356e-12
.param L10=5.6934e-10
.param M10=4.0883e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
L07 _net0607 _net0708 'L07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
L08 _net0708 _net0809 'L08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net2 'K10'
L10 _net0910 _net2 'L10'
R10 _net0910 _net2 'M10'
.ends 

.SubCkt GA242QR7E2102MW01 _net1 _net2
.param K01=1.0674e-09
.param M01=2.0000e+09
.param L02=2.3118e-10
.param M03=2.7937e-01
.param K04=1.7164e-08
.param M04=1.8501e+02
.param K05=8.2114e-08
.param M05=1.7954e+01
.param K06=6.0034e-08
.param M06=2.4765e+00
.param K07=5.1475e-08
.param M07=3.3173e-01
.param K08=2.5272e-08
.param M08=2.0700e-01
.param K09=6.1697e-09
.param L09=4.4222e-11
.param M09=3.8712e-01
.param K10=1.9693e-10
.param L10=7.5436e-11
.param M10=6.2555e-01
.param K11=2.2047e-12
.param L11=6.6154e-10
.param M11=4.9286e+01
C01 _net1 _net0102 'K01'
R01 _net1 _net0102 'M01'
L02 _net0102 _net0203 'L02'
R03 _net0203 _net0304 'M03'
C04 _net0304 _net0405 'K04'
R04 _net0304 _net0405 'M04'
C05 _net0405 _net0506 'K05'
R05 _net0405 _net0506 'M05'
C06 _net0506 _net0607 'K06'
R06 _net0506 _net0607 'M06'
C07 _net0607 _net0708 'K07'
R07 _net0607 _net0708 'M07'
C08 _net0708 _net0809 'K08'
R08 _net0708 _net0809 'M08'
C09 _net0809 _net0910 'K09'
L09 _net0809 _net0910 'L09'
R09 _net0809 _net0910 'M09'
C10 _net0910 _net1011 'K10'
L10 _net0910 _net1011 'L10'
R10 _net0910 _net1011 'M10'
C11 _net1011 _net2 'K11'
L11 _net1011 _net2 'L11'
R11 _net1011 _net2 'M11'
.ends 
